US06022888
124 mg of potassium carbonate and 0.10 ml of n-hexyliodide were added to a dimethylformamide solution containing 200 mg of (1S,4aS,6S,7R,7aR)-6,7-epoxy-1,4a,5,6,7,7a-hexahydro-7-methyl-1-(methylcarbamoyloxy) cyclopenta [c]-pyrane-4-carboxylic acid described in Example 1 followed by heating and stirring for 1 hour at 70° C. The reaction mixture was then extracted with ethyl acetate. After washing the organic phase with dilute hydrochloric acid, saturated aqueous sodium bicarbonate and brine, it was dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel chromatography to obtain a colorless oil from the hexane-ethyl acetate eluate in the form of (1S,4aS,6S,7R,7aR)-6,7-epoxy-1,4a,5,6,7,7a-hexahydro-7-methyl-1-(methylcarbamoyloxy) cyclopenta [c]-pyrane-4-carboxylic acid n-hexylester (210 mg, yield: 80%). The physicochemical properties of this compound are described in Table 1, Compound No. 5.

reactant | potassium carbonate | 124 mg | C([O-])([O-])=O.[K+].[K+]
reactant | n-hexyliodide | 0.10 ml | C(CCCCC)I | C6H13I
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | (1S,4aS,6S,7R,7aR)-6,7-epoxy-1,4a,5,6,7,7a-hexahydro-7-methyl-1-(methylcarbamoyloxy) cyclopenta [c]-pyrane-4-carboxylic acid | 200 mg | O1[C@H]2C[C@H]3[C@@H]([C@@H](OC=C3C(=O)O)OC(NC)=O)[C@]21C | C12H15NO6
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (1S,4aS,6S,7R,7aR)-6,7-epoxy-1,4a,5,6,7,7a-hexahydro-7-methyl-1-(methylcarbamoyloxy) cyclopenta [c]-pyrane-4-carboxylic acid n-hexylester | 210 mg, yield: 80% | C(CCCCC)OC(=O)C=1[C@@H]2[C@@H]([C@@H](OC1)OC(NC)=O)[C@@]1([C@H](C2)O1)C | C18H27NO6
